US09023864B2
[7-(4-Naphthalen-1-yl-[1,2,3]triazol-1-yl)-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl]-acetic acid
The title compound was prepared using procedures described in EXAMPLE 1 from propyl (7-azido-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl)acetate and 1-ethynylnaphthalene. MS (+ESI) m/z: 423.2.

reactant | propyl (7-azido-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl)acetate | N(=[N+]=[N-])C1CCC=2N(C3=CC=CC=C3C2CC(=O)OCCC)C1 | C17H20N4O2
reactant | 1-ethynylnaphthalene | C(#C)C1=CC=CC2=CC=CC=C12 | C12H8
product | [7-(4-Naphthalen-1-yl-[1,2,3]triazol-1-yl)-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl]-acetic acid | C1(=CC=CC2=CC=CC=C12)C=1N=NN(C1)C1CCC=2N(C3=CC=CC=C3C2CC(=O)O)C1 | C26H22N4O2
